* File: invstage1_lay.sp.pex
* Created: Mon Oct  9 09:24:36 2017
* Program "Calibre xRC"
* Version "v2013.4_37.29"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INVSTAGE1_LAY_OUT 3 7 28
c0 28 GND 0.09027f
c1 19 GND 0.00348657f
c2 18 GND 0.026015f
c3 15 GND 0.00775f
c4 7 GND 0.0361183f
c5 3 GND 0.0197783f
r6 18 25 6.89484
r7 18 24 6.89484
r8 17 19 0.0451795
r9 17 18 9.6
r10 15 19 0.113333
r11 12 15 0.0527007
r12 12 28 4.29
r13 7 25 42.35
r14 3 24 28.875
.ends

.subckt PM_INVSTAGE1_LAY_IN 23 26 29
c0 29 GND 0.050445f
c1 21 GND 0.00446214f
c2 19 GND 0.0081375f
c3 14 GND 0.00496f
c4 12 GND 0.00343914f
c5 6 GND 0.0148788f
c6 3 GND 0.00248f
r7 19 22 0.0526664
r8 19 21 0.0526664
r9 19 29 4.29
r10 17 21 0.128
r11 15 26 5.78981
r12 14 17 0.0451795
r13 14 15 10.4
r14 12 22 0.0986667
r15 4 23 1.5
r16 4 6 10.8
r17 3 12 0.0425897
r18 3 6 0.2
r19 3 4 10.8
.ends

.subckt PM_INVSTAGE1_LAY_GND 1 10 19
c0 14 GND 0.00646164f
c1 12 GND 0.00496f
c2 7 GND 0.0540203f
c3 5 GND 0.0264957f
r4 13 19 5.78981
r5 12 14 0.0451795
r6 12 13 10.4
r7 7 10 0.0201802
r8 5 7 0.00864865
r9 3 5 0.0673495
r10 3 14 0.185333
r11 1 7 10.8
.ends

.subckt PM_INVSTAGE1_LAY_VDD 1 15 21
c0 20 GND 0.00188325f
c1 13 GND 0.0598649f
c2 7 GND 0.0154988f
c3 4 GND 0.0411661f
r4 19 20 0.0351795
r5 13 17 0.0231321
r6 13 15 0.02128
r7 11 19 0.01
r8 8 21 1.5
r9 8 11 10.8
r10 7 11 0.2
r11 7 8 10.8
r12 4 17 0.0481042
r13 4 20 0.202667
r14 1 17 10.4
.ends

