* ELDO netlist generated with ICnet by 'vlsi' on Mon Oct  9 2017 at 08:12:44

.CONNECT GND 0

*
* MAIN CELL: Component pathname : /home/vlsi/dff/inverter.cir
*
.SUBCKT invstage1_lay OUT IN GND VDD
        MN1 IN OUT GND GND n L=1.8e-07 W=2.7e-07
        MP1 IN OUT VDD VDD p L=1.8e-07 W=1.35e-06
*
.ends





